US06969710B2
Synthesis of N-(5-fluoro-2-nitrophenyl)benzenesulfonamide (Scheme 2, Method 3)
Benzenesulfonamide (3.14 g, 20 mmol) was dissolved in DMF (100 mL) and NaH (60% in oil, 40 mmol, 1.60 g) was added. The reaction was stirred until the gas evolution ceased. 2,4-Difluoronitrobenzene (18 mmol, 2.9 g, 2 mL) was added and the reaction mixture was stirred over night at 35° C. The reaction mixture was poured into HCl (1M aq, 100 mL) and extracted with toluene (25 mL×5). The organic phase was dried (MgSO4) and concentrated and re-crystallized from EtOH to give a first crop of 3.75 g of a yellow solid. A second crop of 0.20 g was collected from the EtOH remains. Yield 3.95 g, 13.3 mmol (74%). MS (posES-FIA) m/z=found: 296. Calc: 296.0.

reactant | Benzenesulfonamide | 20 mmol, 3.14 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | NaH | 40 mmol, 1.60 g | [H-].[Na+]
reactant | 2,4-Difluoronitrobenzene | 18 mmol, 2 mL, 2.9 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(5-fluoro-2-nitrophenyl)benzenesulfonamide | 3.75 g | FC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H9FN2O4S
